US08802697B2
Synthesis of tert-butyl 4-(2,5-dichloropyrimidin-4-yl)piperazine-1-carboxylate
To a solution of 2,4,5-trichloropyrimidine (0.475 g, 2.6 mmol) in dry DMF (8.5 mL) was added tert-butyl piperazine-1-carboxylate (0.51 g, 2.7 mmol) followed by DIEA (0.51 mL, 3.1 mmol) at 0° C., and the mixture was stirred for 1 h. LCMS showed the reaction was completed. The reaction was diluted with water (100 mL), and the white solid was filtered. The residue was washed with water and dried to give the title compound (445 mg, 51%) as a white solid. MS (ES+) C13H18Cl2N4O2 requires: 332. found: 333 [M+H]+

reactant | 2,4,5-trichloropyrimidine | 2.6 mmol, 0.475 g | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | tert-butyl piperazine-1-carboxylate | 2.7 mmol, 0.51 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | DIEA | 3.1 mmol, 0.51 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 8.5 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | tert-butyl 4-(2,5-dichloropyrimidin-4-yl)piperazine-1-carboxylate | 445 mg, 51% | ClC1=NC=C(C(=N1)N1CCN(CC1)C(=O)OC(C)(C)C)Cl | C13H18Cl2N4O2
